US07109225B2
e] 2-(2-Cyclohexyl-5-methyl-oxazol-4-yl)-ethanol
1.920 g of the above prepared (2-cyclohexyl-5-methyl-oxazol-4-yl)-acetic acid (8.60 mmol) was dissolved in 56 ml of abs. THF and treated at 0° C. with 21.5 ml of 1M BH3THF (2.5 eq.). The reaction mixture was then kept over weekend at ambient temperature. 3.5 ml of MeOH was added and the mixture stirred for 3 h at ambient temperature and for 3 h at 50° C. to liberate the free alcohol. Removing of the solvents i. V., followed by flash chromatography (SiO2, hexane/AcOEt=4/6) yielded finally 1.314 g of the title compound as colorless oil.

reactant | (2-cyclohexyl-5-methyl-oxazol-4-yl)-acetic acid | 8.60 mmol | C1(CCCCC1)C=1OC(=C(N1)CC(=O)O)C | C12H17NO3
reactant | THF | C1CCOC1 | C4H8O
reactant | BH3THF | 1M, 21.5 ml, 2.5 eq. | B.C1CCOC1
solvent | MeOH | 3.5 ml | CO | CH4O
product | 2-(2-Cyclohexyl-5-methyl-oxazol-4-yl)-ethanol | 1.314 g | C1(CCCCC1)C=1OC(=C(N1)CCO)C | C12H19NO2
